US06884821B1
643 mg of 2-diethylphosphonopropionic acid and 973 mg of ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate were dissolved in 10 ml N,N-dimethylformamide, and 470 μl diethyl cyanophosphonate and 1.07 ml triethylamine were successively added thereto. The mixture was stirred overnight at room temperature, and the reaction mixture was diluted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 1.310 g of ethyl 3-[3-([2-(diethoxyphosphoryl)propanoyl]aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate.

reactant | 2-diethylphosphonopropionic acid | 643 mg | C(C)OP(=O)(OCC)C(C(=O)O)C | C7H15O5P
reactant | ethyl 3-[3-(aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate | 973 mg | NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C | C16H25NO4
reactant | diethyl cyanophosphonate | 470 μl | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | triethylamine | 1.07 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 3-[3-([2-(diethoxyphosphoryl)propanoyl]aminomethyl)-4-methoxyphenyl]-2-isopropoxypropionate | 1.310 g | C(C)OP(=O)(OCC)C(C(=O)NCC=1C=C(C=CC1OC)CC(C(=O)OCC)OC(C)C)C | C23H38NO8P
